US05643950
2-(4-(3,3,3-triphenylpropoxy)pheny)ethylamine.
N-(t-butoxycarbonyl)-2-(4-hydroxyphenyl)ethylamine (1.3 g) and 3,3,3-triphenylpropanol (1.4 g) were coupled by the method of example 5. The product (1.4 g) was dissolved in 15 mL isopropanol containing 1.0 g HCl, and stirred 3 hr at room temperature. A precipitate formed, which was collected and recrystallized from ethanol-ether to provide the hydrochloride salt of the title compound as a white solid, mp 163°-165° C., in 66% yield. Anal. calcd. for C29H29NO.HCl.0.75 H2O: C, 76.13; H, 6.94; N, 3.06. Found: C, 75.99; H, 6.81; N, 3.02.

reactant | N-(t-butoxycarbonyl)-2-(4-hydroxyphenyl)ethylamine | 1.3 g | C(C)(C)(C)OC(=O)NCCC1=CC=C(C=C1)O | C13H19NO3
reactant | 3,3,3-triphenylpropanol | 1.4 g | C1(=CC=CC=C1)C(CCO)(C1=CC=CC=C1)C1=CC=CC=C1 | C21H20O
solvent | isopropanol | 15 mL, 1.0 g | C(C)(C)O | C3H8O
product | 2-(4-(3,3,3-triphenylpropoxy)pheny)ethylamine | 66% yield | C1(=CC=CC=C1)C(CCOC1=CC=C(C=C1)CCN)(C1=CC=CC=C1)C1=CC=CC=C1 | C29H29NO
